US04287341
i. N-Benzyl-3-hydroxy-3-(m-trifluoromethylphenyl)piperidine
Under anhydrous conditions, to a mixture of 11 g. of magnesium in 15 ml. of ethyl ether an iodine crystal is added followed by the addition of a solution of 100 g. of m-bromotrifluoromethylbenzene in 300 ml. of ether over a two hour period. The resulting mixture is stirred for two hours at ambient temperature then cooled to 5° C. A solution of 70 g. of N-benzyl-3-piperidone in 300 ml. of ether is added at this temperature over one hour. After stirring for 15 minutes at 5° C. and one hour at 20°-25° C., the reaction mixture was poured onto 800 ml. of ice-water with stirring. The mixture is filtered, the organic layer extracted with 4×100 ml. of 1 N hydrochloric acid and once with brine. The aqueous phase is made alkaline by addition of triethylamine in the cold and the resulting mixture extracted with ethyl acetate. The combined extracts are washed with brine, dried (MgSO4) and evaporated to dryness. The crude product is purified by silica gel chromatography, eluting with cyclohexane/chloroform/triethylamine (85:10:5 by volume) to obtain the desired product as an orange colored solid.

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | m-bromotrifluoromethylbenzene | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | N-benzyl-3-piperidone | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
solvent | ether | CCOCC | C4H10O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-Benzyl-3-hydroxy-3-(m-trifluoromethylphenyl)piperidine | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)C(F)(F)F)O | C19H20F3NO
